### PR TITLE
feat: real numbers as games

### PR DESCRIPTION
**Pull request by vihdzp**
- [x] depends on: #87 
- [x] depends on: #89
- [x] depends on: #90

### CODE REVIEW

File: CombinatorialGames/Surreal/Real.lean [hunk 1]
```diff
@@ -0,0 +1,566 @@
...
+    [Numeric x] [Numeric y] [Numeric a] [Numeric b₁] [Numeric b₂] (he : b₁ ≈ b₂) :
+    mulOption x y a b₁ ≈ mulOption x y a b₂ := by
+  simp_all [← Surreal.mk_eq_mk, mulOption]
+
+-- TODO: upstream
+open Pointwise in
+theorem Set.neg_image {α β : Type*} [InvolutiveNeg α] [InvolutiveNeg β]
+    {s : Set β} {f : β → α} (h : ∀ x ∈ s, f (-x) = -f x) : -f '' s = f '' (-s) := by
+  simp_rw [← Set.image_neg_eq_neg, Set.image_image]
+  aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Real.lean]:
```suggestion
  simp_all only
```

File: CombinatorialGames/Surreal/Real.lean [hunk 2]
```diff
@@ -0,0 +1,566 @@
...
+
+private theorem Numeric.toIGame' (x : ℝ) : Numeric (toIGame' x) := by
+  rw [Real.toIGame']
+  apply Numeric.mk' <;> simp only [leftMoves_ofSets, rightMoves_ofSets, Set.forall_mem_image]
+  · intro x hx y hy
+    dsimp at *
+    exact_mod_cast hx.trans hy
+  all_goals
+    intros
+    infer_instance
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Real.lean]:
```suggestion
  all_goals
    infer_instance
```

**Review by LeoDog896 — APPROVED** [review]
This looks good! I'll delegate this to you - just some minor golf nitpicks.
